* Author: A. van Wijk
* Version: x.x
* Last modification date: 10 October 2022
* Last modification by: L. Schindler
* Copyright (c) 2022 Adriaan van Wijk, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
*For questions about the library, contact Adriaan van Wijk, jacowijka@gmail.com
* The cell is not designed to be connected directly to passive transmission lines

.include cells\LSmitll_DCSFQ_v2p1_optimized.cir
.include cells\LSmitll_SFQDC_v2p1_optimized.cir
.include cells\LSmitll_JTL_v2p1_optimized.cir
.include translated_RYLOV.cir
.include translated_shunt.cir

.tran 0.025p 250p 0
.param cval= 600u
I_A0 0 xa pwl(0 0 100p 0 103p cval 105p 0 200p 0 203p 0 205p 0) 
I_B0 0 xb pwl(0 0 121.5p 0 124.5p cval 126.5p 0 200p 0 203p 0 205p 0)

XDCSFQA LSmitll_DCSFQ xa xa1 
XDCSFQB LSmitll_DCSFQ xb xb1

XJTLA LSMITLL_JTL xa1 A
XJTLB LSMITLL_JTL xb1 B

* INSERT CELL HERE
XDUT RYLOV A B q

* Rylov works GREAT with my thing k l j k l j k

XLOAD LSMITLL_JTL q qq
*XDCSFQ LSmitll_SFQDC xq qq
Rsink qq 0 2

.print i(L1.xdut) v(10.xdut) i(R1.xdut) p(B1.xdut) p(B3.xdut) i(lmeasure.xdut) i(lmeasure2.xdut) p(qq) p(L1.XDUT)
